US07582664B2
2-(4-Fluorophenoxy)benzoic acid
100 g of potassium carbonate are added slowly to a mixture of 120 g of 2-iodobenzoic acid, 1 g of copper powder and 54.4 g of 4-fluorophenol in 200 ml of N,N-dimethylformamide. The mixture is heated at 160° C. for 4 hours and is then allowed to cool before evaporating. The residue is taken up in distilled water, acidified with aqueous 1N hydrochloric acid solution and then extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The desired product crystallizes from a diethyl ether/pentane mixture. 50 g of a white solid are obtained.

reactant | potassium carbonate | 100 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodobenzoic acid | 120 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | 4-fluorophenol | 54.4 g | FC1=CC=C(C=C1)O | C6H5FO
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | copper | 1 g | [Cu] | Cu
product | 2-(4-Fluorophenoxy)benzoic acid | 50 g | FC1=CC=C(OC2=C(C(=O)O)C=CC=C2)C=C1 | C13H9FO3
